US07253286B2
tert-Butyl 4-(2-((4-(3-chloro-4-((cyclopropylamino)carbonyl)aminophenoxy)-6-cyano-7-quinolyl)oxy)ethyl)-1-piperidinecarboxylate
After dissolving tert-butyl 4-(((4-(4-amino-3-chlorophenoxy)-6-cyano-7-quinolyl)oxy)ethyl)-1-piperidine carboxylate (486.5 mg, 0.930 mmol) in dimethylformamide (5 ml) under a nitrogen atmosphere, pyridine (0.170 ml, 2.09 mmol) and phenyl chloroformate (0.175 ml, 1.34 mmol) were added dropwise at room temperature, and the mixture was stirred for 1 hour. Cyclopropylamine (0.322 ml, 4.65 mmol) was added dropwise, and the mixture was further stirred overnight. The reaction solution was distributed between ethyl acetate and saturated aqueous sodium bicarbonate, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was subjected to silica gel column chromatography (eluent—ethyl acetate), the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (343 mg, 0.566 mmol, 60.8%) as light yellow crystals.

reactant | tert-butyl 4-(((4-(4-amino-3-chlorophenoxy)-6-cyano-7-quinolyl)oxy)ethyl)-1-piperidine carboxylate | 0.930 mmol, 486.5 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)Cl | C28H31ClN4O4
reactant | pyridine | 2.09 mmol, 0.170 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 1.34 mmol, 0.175 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Cyclopropylamine | 4.65 mmol, 0.322 ml | C1(CC1)N | C3H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(2-((4-(3-chloro-4-((cyclopropylamino)carbonyl)aminophenoxy)-6-cyano-7-quinolyl)oxy)ethyl)-1-piperidinecarboxylate | 0.566 mmol, 343 mg, 60.8% | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1NC(=O)NC1CC1 | C32H36ClN5O5
